US07863332B2
d. Preparation of methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate
In a manner similar to that of Example (18e), by reaction of 400 mg (26% by mass) of 10% palladium-on-charcoal, 1.54 g (3.16 mmol, 1 eq) of methyl (E)-3-[2-benzyloxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]acrylate in 20 ml of methanol and 5 mL of ethyl acetate, and after crystallization from pentane, 1.1 g of methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate are obtained in solid form. Yield=87%

reactant | methyl (E)-3-[2-benzyloxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]acrylate | 3.16 mmol, 1.54 g, 1 eq | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)/C=C/C(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C30H34N2O4
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 400 mg | [Pd] | Pd
product | methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate | Yield=87% | OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C23H30N2O4
